US06887896B1
1-(4,4-dimethyl-6-ethoxy-1-isopropyl-3,4-dihydronaphthalen-7-yl)ethanone (Compound A-24)
To a solution 7-bromo-4,4-dimethyl-6-ethoxy-1-isopropyl-3,4-dihydronaphthalene (Compound A-32, 284 mg, 0.879 mmol) in THF (5 mL) was tributyl(1-ethoxyvinyl) tin (0.445 mL, 1.32 mmol), and the resulting solution was purged with dry argon for 15 min. Dichlorobis(triphenylphosphine)palladium(II) (0.031 g, 0.044 mmol) was added and the solution was refluxed until the reaction was complete by TLC analysis. The reaction was cooled to room temperature. The mixture was diluted with water, extracted with ethyl ether, washed with brine, dried over MgSO4, and filtered. The solvent was removed under reduce pressure, and the residue was purified by flash column chromatography (silica gel, 95:5 hexane/ethyl acetate) to produce the title compound as a colorless solid.

reactant | 7-bromo-4,4-dimethyl-6-ethoxy-1-isopropyl-3,4-dihydronaphthalene | 0.879 mmol, 284 mg | BrC1=C(C=C2C(CC=C(C2=C1)C(C)C)(C)C)OCC | C17H23BrO
reactant | tributyl(1-ethoxyvinyl) tin | 1.32 mmol, 0.445 mL | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
catalyst | Dichlorobis(triphenylphosphine)palladium(II) | 0.044 mmol, 0.031 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-(4,4-dimethyl-6-ethoxy-1-isopropyl-3,4-dihydronaphthalen-7-yl)ethanone | CC1(CC=C(C2=CC(=C(C=C12)OCC)C(C)=O)C(C)C)C | C19H26O2
